* Schematics Netlist *



Q_Q1         out $N_0001 0 Q2N3904
Q_Q2         out $N_0002 0 Q2N3904
R_R1         out 0  1k  
V_V1         int1 $N_0001 5V
V_V2         int2 $N_0002 5V
