* Schematics Netlist *



R_R1         out $N_0001  1k  
R_R2         $N_0002 in1  1k  
Q_Q2         out $N_0003 0 Q2N3904
Q_Q1         out in1 0 Q2N3904
R_R5         $N_0003 $N_0004  1k  
V_V6         $N_0004 0 0V
V_V2         $N_0002 0 5V
V_V1         0 $N_0001 5V
